US05661181
In this example, the stoichiometry of Example 1 was modified using pentaerythritol (1.92 g; 14 mmol) and butyryl chloride (0.75 mL; 0.5 equiv) and pyridine (100 mL) to produce pentaerythritol monobutyrate (0.74 g; 47%).

reactant | pentaerythritol | 14 mmol, 1.92 g | OCC(CO)(CO)CO | C5H12O4
reactant | butyryl chloride | 0.75 mL, 0.5 equiv | C(CCC)(=O)Cl | C4H7ClO
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | pentaerythritol monobutyrate | 0.74 g, 47% | C(CCC)(=O)OCC(CO)(CO)CO | C9H18O5
